US04179505
To a stirred solution of 4 parts of sodium hydroxide in 50 parts of water are added 4.7 parts of methyl {5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazol-2-yl]carbamate. The whole is stirred and refluxed for 3.50 hours. The reaction mixture is cooled and allowed to stand overnight. It is acidified with a hydrochloric acid solution 10 N. The precipitated product is filtered off, washed with water and boiled in ethanol. After cooling, the product is filtered off, washed with ethanol and with 2,2'-oxybispropane and dried, yielding 2.5 parts of 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazol-2-amine; mp. 267.5° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl {5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazol-2-yl]carbamate | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C(=N2)NC(OC)=O)C)C=C1)C1=CC=CC=C1 | C28H31N5O2
reactant | hydrochloric acid | 10 N | Cl | ClH
solvent | water | O | H2O
product | 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazol-2-amine | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C(=N2)N)C)C=C1)C1=CC=CC=C1 | C26H29N5
